US05023255
N-(3-Fluorophenyl)glycine methyl ester
3-Fluoroaniline (55.5 g), methyl chloroacetate (44 ml), and sodium acetate trihydrate (114 g) were treated according to the method of Intermediate 1 to give a solid (50 g), a small sample of which (ca. 1 g) was purified by FCC eluting with System B (1:3) to give a solid which was recrystallised from petroleum ether (60°-80°) to give the title compound, m.p. 68°-69°.

reactant | 3-Fluoroaniline | 55.5 g | FC=1C=C(N)C=CC1 | C6H6FN
reactant | methyl chloroacetate | 44 ml | ClCC(=O)OC | C3H5ClO2
reactant | sodium acetate trihydrate | 114 g | O.O.O.C(C)(=O)[O-].[Na+]
product | N-(3-Fluorophenyl)glycine methyl ester | 50 g | COC(CNC1=CC(=CC=C1)F)=O | C9H10FNO2
